US04254134
N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)-N-methylacetamide (Compound 3h)
A mixture of 10.0 g (0.05 mol) of 2,3,4,9-tetrahydro-N-methyl-1H-carbazol-2-amine and 70 ml of acetic anhydride was heated at reflux until complete solution occurred (2-3 min). After standing overnight at room temperature and further cooling at 0°, the precipitated solid was filtered, washed first with small portions of cold acetic anhydride and then thoroughly with anhydrous ether. The crude product was recrystallized from ethanol to give the title compound, mp 215°-216°.

reactant | 2,3,4,9-tetrahydro-N-methyl-1H-carbazol-2-amine | 0.05 mol, 10.0 g | CNC1CC=2NC3=CC=CC=C3C2CC1 | C13H16N2
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)-N-methylacetamide | C1C(CCC=2C3=CC=CC=C3NC12)N(C(C)=O)C | C15H18N2O
